US04465834
Preparation of 1-Methyl-3-piperidyl α-Ethynyl-α-phenylglycolate
1-Methyl-3-piperidinol (3.5 g., 0.03 mole) and a small piece of sodium (~0.05 g.) were refluxed in 150 ml. of n-heptane for about 1 hour in a flask equipped with a small distilling head. Methyl α-ethynyl-α-phenylglycolate (4.0 g., 0.02 mole) was then added intermittently over a one hour period with the temperature of the reaction mixture maintained at 90°. The reaction mixture was heated at 90°-95° for three hours during which time very little methanol was collected. The reaction mixture was subsequently refluxed for 11 hours and the azeotrope collected periodically. During this time sodium methoxide (0.075 g.) was added and 50 ml. of fresh n-heptane was added as an equal volume of distillate was collected simultaneously. These operations were carried out twice. Heating was stopped and a total of 0.3 ml. (38% of theory) of methanol was obtained. As the reaction mixture cooled, an oil settled out. The n-heptane was decanted and the residue was washed with ice water (3×10 ml.). Ether and ice were added to the oil and the mixture worked up as described in Example 12, to yield 1.9 g. (35%) of the product as a yellow oil. Crystallization was effected by dissolving the material in ether, adding 30°-60° petroleum ether to produce turbidity and refrigerating the solution for several days. The product melted at 92°-95° after recrystallization from hexane.

reactant | 1-Methyl-3-piperidinol | 0.03 mole, 3.5 g | CN1CC(CCC1)O | C6H13NO
reactant | sodium | ~0.05 g | [Na] | Na
reactant | n-heptane | CCCCCCC | C7H16
reactant | Methyl α-ethynyl-α-phenylglycolate | 0.02 mole, 4.0 g | C(#C)C(C(=O)OC)(O)C1=CC=CC=C1 | C11H10O3
solvent | methanol | CO | CH4O
product | 1-Methyl-3-piperidyl α-Ethynyl-α-phenylglycolate | C(#C)C(C(=O)OC1CN(CCC1)C)(O)C1=CC=CC=C1 | C16H19NO3
